US05166398
5-(4-Methoxy-2,5-dimethylphenoxy)-2,2-dimethyl-pentanoic acid, methyl ester
A 500 mL, 3 neck round bottom flask is charged with 7.6 g (50 mmol) of 4-methoxy-2,5-xylenol, 8.3 g (60 mmol) of anhydrous potassium carbonate 13.4 g (60 mmol) of 5-bromo-2,2-dimethylvaleric acid, methyl ester (U.S. Pat. No. 4,665,226) and 150 mL of acetonitrile. The mixture is stirred mechanically at reflux for 24 hours. The reaction flask and inorganic solids are washed with fresh acetonitrile and the filtrate evaporated. The residue is taken up in diethyl ether and the solution washed with 50 mL of 2N potassium hydroxide solution, brine, dried (magnesium sulfate) and evaporated. The crude product amounts to 16.6 g. Distillation through a short path apparatus first at aspirator pressure and then at 0.5 mm affords 12.9 g of the title compound; infrared spectrum (IR) (C=0) 1732 cm-1.

reactant | 4-methoxy-2,5-xylenol | 50 mmol, 7.6 g | COC=1C=C(C(=CC1C)O)C | C9H12O2
reactant | potassium carbonate | 60 mmol, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-bromo-2,2-dimethylvaleric acid, methyl ester | BrCCCC(C(=O)OC)(C)C | C8H15BrO2
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 5-(4-Methoxy-2,5-dimethylphenoxy)-2,2-dimethyl-pentanoic acid, methyl ester | 12.9 g | COC1=CC(=C(OCCCC(C(=O)OC)(C)C)C=C1C)C | C17H26O4
